US09340538B2
Step A: 3-(4-(tert-butoxycarbonyl)morpholin-3-yl)propanoic acid
A mixture of formic acid (2.26 mL, 58.9 mmol) and triethylamine (3.36 mL, 24.11 mmol) was stirred for 5 minutes in an ice bath. To the mixture were added tert-butyl 3-formylmorpholine-4-carboxylate (0.47 g, 2.2 mmol) and Meldrum's acid (0.32 g, 2.2 mmol) in turn at 0° C. The reaction mixture was heated at 100° C. for 5 hours, and cooled down in an ice bath. To the resulting mixture was added aqueous NaOH solution (2 mol/L, 40 mL). The aqueous layer was extracted with EtOAc (50 mL×3) and the organic layer was discarded. To the aqueous layer was added EtOAc (80 mL), and the mixture was adjusted to pH 4-5 with HCl (1 mol/L) under stirring. The aqueous layer was extracted with EtOAc (80 mL). The organic layer was dried over anhydrous Na2SO4, then filtered and the filtrate was concentrated in vacuo to give the title compound as a white solid (0.23 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | formic acid | 58.9 mmol, 2.26 mL | C(=O)O | CH2O2
reactant | triethylamine | 24.11 mmol, 3.36 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-formylmorpholine-4-carboxylate | 2.2 mmol, 0.47 g | C(=O)C1N(CCOC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | Meldrum's acid | 2.2 mmol, 0.32 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | NaOH | 2 mol/L, 40 mL | [OH-].[Na+]
product | 3-(4-(tert-butoxycarbonyl)morpholin-3-yl)propanoic acid | 0.23 g, 40% | C(C)(C)(C)OC(=O)N1C(COCC1)CCC(=O)O | C12H21NO5
